US09079866B2
4-{[3′-Fluoro-4′-(1H-pyrrolo[2,3-b]pyridin-5-yl)biphenyl-2-yl]oxy}pyrimidin-2-amine
The title compound was prepared using methods analogous to those described in Example 376 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine and 4-(2-bromophenoxy)pyrimidin-2-amine. MS (ESI): mass calcd. for C23H16FN5O, 397.13; m/z found, 398.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 9.30 (s, 1H), 8.55-8.45 (m, 1H), 8.18-8.08 (m, 1H), 8.07 (d, J=5.7, 1H), 7.55-7.28 (m, 8H), 7.22 (dd, J=8.0, 1.4, 1H), 6.08 (d, J=5.7, 1H), 4.95 (s, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=C2C(=NC1)NC=C2 | C19H20BFN2O2
reactant | 4-(2-bromophenoxy)pyrimidin-2-amine | BrC1=C(OC2=NC(=NC=C2)N)C=CC=C1 | C10H8BrN3O
product | 4-{[3′-Fluoro-4′-(1H-pyrrolo[2,3-b]pyridin-5-yl)biphenyl-2-yl]oxy}pyrimidin-2-amine | FC=1C=C(C=CC1C=1C=C2C(=NC1)NC=C2)C2=C(C=CC=C2)OC2=NC(=NC=C2)N | C23H16FN5O
